US05610172
a) 5-Methoxycarbonylpyridine-2-carboxylic acid-1-oxide (cf. J. Org. Chem. 25 (1960) 565)
12 g (60 mmol) of dimethyl pyridine-2,5-dicarboxylate were suspended in 30 ml of glacial acetic acid and treated with 13 ml of hydrogen peroxide (35%) at 20° C. with stirring. The mixture was then heated with stirring to 100° C. (internal temperature), a clear solution being formed at 50° C. After the mixture had been stirred at 100° C. for 90 min, it was allowed to cool to 20° C., the crystalline precipitate was filtered off with suction and washed with water and, after drying, 7.5 g of product were obtained, m.p. 160° C. (dec.).

reactant | dimethyl pyridine-2,5-dicarboxylate | 60 mmol, 12 g | N1=C(C=CC(=C1)C(=O)OC)C(=O)OC | C9H9NO4
reactant | hydrogen peroxide | 13 ml | OO | H2O2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 5-Methoxycarbonylpyridine-2-carboxylic acid-1-oxide | 7.5 g | COC(=O)C1=CC=C([N+](=C1)[O-])C(=O)O | C8H7NO5
